US05371077
To a solution of 3β-acetoxy-5α-cholesta-8(14),24-dien-15-one (220 mg) in tetrahydrofuran (3 ml) was added boranedimethyl sulfide (0.125 ml) dropwise at 0° C. After standing overnight at -20° C., 3N sodium acetate (0.4 ml) was added followed by 30% aqueous H2O2 (0.4 ml) at room temperature. After stirring for 3 h at room temperature, the reaction mixture was poured into water (10 ml) and extracted 3 times with ether (5-ml portions). The combined ether extracts were washed with water (5 ml), dried over anhydrous sodium sulfate, and evaporated to dryness. The resulting oily residue was subjected to silica gel column (15 cm×0.8 cm) chromatography. Using 16% ethyl acetate in hexane as the eluting solvent, fractions 8 ml in volume were collected. The contents of fractions 64-99 were pooled and, after evaporation of the solvent, gave 3β-acetoxy-24 -hydroxy-5α-cholest-8(14)-en-15-one (66 mg) as an oil to which, after dissolving in methanol (3 ml), potassium carbonate (40 mg) was added. After stirring for 4 h at room tempeature, TLC analyses (solvent systems, 70% ethyl acetate in hexane and 50% acetone in benzene) indicated completion of the reaction with one major product (with Rf values of 0.51 and 0.27 in the 2 solvent systems, respectively). The reaction mixture was poured into water (10 ml), extracted 3 times with ether (5 ml portions), and the combined ether extracts were dried over anhydrous sodium sulfate and evaporated to dryness. The residue (55 mg) was subjected to chromatography on a silica gel (4 g) column (10 cm×0.8 cm). Using 30% ethyl acetate in hexane as the eluting solvent, fractions 8 ml in volume were collected. The contents of fractions 11-17 were combined and, after evaporation of the solvent, gave 3β,24-dihydroxy-5α-cholest-8(14)-en-15-one (21 mg; 10% yield). The structure was confirmed by I.R., N.M.R., and M.S. analyses.

reactant | 3β-acetoxy-5α-cholesta-8(14),24-dien-15-one | 220 mg | C(C)(=O)O[C@@H]1C[C@@H]2CCC3=C4C(C[C@H]([C@@H](CCC=C(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C29H44O3
reactant | sodium acetate | 3N, 0.4 ml | C(C)(=O)[O-].[Na+]
reactant | H2O2 | 0.4 ml | OO | H2O2
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3β-acetoxy-24 -hydroxy-5α-cholest-8(14)-en-15-one | 66 mg | C(C)(=O)O[C@@H]1C[C@@H]2CCC3=C4C(C[C@H]([C@@H](CCC(C(C)C)O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C29H46O4
